US08022062B2
7-Chloro-6-[4-(2,2-dimethyl-propylcarbamoyl)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 456, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 4-chloromethyl-N-(2,2-dimethyl-propyl)-benzamide to give, after deprotection by a method similar to the General Procedure 14, the title compound as a white solid. MS (ES+) m/z: 417 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 4-chloromethyl-N-(2,2-dimethyl-propyl)-benzamide | ClCC1=CC=C(C(=O)NCC(C)(C)C)C=C1 | C13H18ClNO
product | 7-Chloro-6-[4-(2,2-dimethyl-propylcarbamoyl)-benzylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)C(NCC(C)(C)C)=O | InChI=1S/C23H29ClN2OS.ClH/c1-23(2,3)15-26-22(27)18-6-4-16(5-7-18)14-28-21-19-11-13-25-12-10-17(19)8-9-20(21)24;/h4-9,25H,10-15H2,1-3H3,(H,26,27);1H
